* Z:\Documentos\GitHub\ProjetoBB\Projeto-Final\Biquad Highpass Filter mc + 4bitPRBS [FALHA].asc
R3 N001 Q1 {falhaR3(mc(2.325k,0.125),mc(10.075k,0.125),mc(6.2k,0.01))}
C2 VB VC {falhaC2(mc(1.875n,0.125),mc(8.125n,0.125),mc(5n,0.01))}
V1 N012 0 -15
V2 N003 0 15
V4 N011 0 -15
V5 N005 0 15
V6 N010 0 -15
V7 N004 0 15
XU1 0 N001 N003 N010 VA LT1001
R1 VA N001 {falhaR1(mc(2.325k,0.125),mc(10.075k,0.125),mc(6.2k,0.01))}
R2 N002 N001 {falhaR2(mc(2.325k,0.125),mc(10.075k,0.125),mc(6.2k,0.01))}
XU2 0 VC N005 N011 VB LT1001
R4 VC VA {falhaR4(mc(0.6k,0.125),mc(2.6k,0.125),mc(1.6k,0.01))}
R5 N006 VB 5.1K
XU3 0 N006 N004 N012 N002 LT1001
C1 N001 VA {falhaC1(mc(1.875n,0.125),mc(8.125n,0.125),mc(5n,0.01))}
V8 N014 0 -15
V9 N013 0 15
XU4 0 N009 N013 N014 Vout LT1001
R10 N009 Q1 10k
R9 N009 VA 10k
R7 N002 N009 10k
R6 N002 N006 5.1k
R8 Vout N009 10k
V§CLOCK1 clock 0 PULSE(0 1 250n 2n 2n 10u 20u)
A1 N007 0 clock 0 0 N008 Q1 0 DFLOP td=20n Ref=1 Vhigh=10 Vlow=0
A2 Q1 0 clock 0 0 0 Q2 0 DFLOP Ref=1 Vhigh=3 Vlow=0 td=20n
A3 0 Q3 Q4 input 0 0 N007 0 XOR Ref=1 Vhigh=1 Vlow=0 Td=5n tripdt=5n
A4 Q2 0 clock 0 0 0 Q3 0 DFLOP Ref=1 Vhigh=2 Vlow=0 td=20n
A5 Q3 0 clock 0 0 0 Q4 0 DFLOP Ref=1 Vhigh=4 Vlow=0 td=20n
V3 input 0 PULSE(0 1 0 1n 1n 250n 5us 1)
;ac dec 100 10k 1meg
.step param run 1 3900 1
.tran 300us
.function falhaR1(baixo,alto,mc)  if((run>X)&(run<=2*X), alto,if (run<=X,baixo,mc))
.function falhaR2(baixo,alto,mc)  if((run>3*X)&(run<=4*X), alto,if ((run<=3*X)&(run>2*X),baixo,mc))
.function falhaR3(baixo,alto,mc)  if((run>5*X)&(run<=6*X), alto,if ((run<=5*X)&(run>4*X),baixo,mc))
.function falhaC2(baixo,alto,mc)  if((run>11*X)&(run<=12*X),alto, if((run<=11*X)&(run>10*X),baixo,mc))
.function falhaC1(baixo,alto,mc)  if((run>9*X)&(run<=10*X),alto, if((run<=9*X)&(run>8*X),baixo,mc))
.param X=300
.function falhaR4(baixo,alto,mc)  if((run>7*X)&(run<=8*X), alto,if ((run<=7*X)&(run>6*X),baixo,mc))
* Para Ton no clock, o intervalo mínimo de excitação será Ton*2
.lib LTC.lib
.backanno
.end
